US07713976B2
To acetic anhydride (150 ml) (4SR,5RS)-(1-aza-bicyclo[3.3.1]nonan-4-ol (21.34 g, 151 mmol) is added portionwise under cooling. The reaction mixture is heated to 120° C. for 2.5 h, is evaporated and extracted with THF/sat. K2CO3 soln. The aq. layer is reextracted with THF. The combined organic layers are washed with brine, dried over Na2SO4, filtered and evaporated. The crude product is purified by bulb-to-bulb distillation (HV, 90° C.) to give 24.07 g (87%) of (4SR,5RS)-acetic acid 1-aza-bicyclo[3.3.1]non-4-yl ester.

reactant | 1-aza-bicyclo[3.3.1]nonan-4-ol | 151 mmol, 21.34 g | N12CCC(C(CCC1)C2)O | C8H15NO
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (4SR,5RS)-acetic acid 1-aza-bicyclo[3.3.1]non-4-yl ester | 24.07 g, 87% | N12CCC(C(CCC1)C2)OC(C)=O | C10H17NO2
